US04026936
A solution of 27 g. (0.27 mol) of chromium trioxide in 250 ml. of water was added to a solution of 80 g. (0.266 mol) of 3-nitro-4-chlorophenyl-2-pyridyl methanol hydrochloride in 800 ml. of 75% acetic acid at 45° C. and the mixture was heated to 75° C. for 1 hr. The resulting dark green solution was poured into 3 liters of ice-water. The resulting product was filtered off, washed with water, dissolved in methylene chloride, dried with sodium sulfate and concentrated in vacuo to yield 2-(3-nitro-4-chlorobenzoyl)pyridine as white microneedles, mp. 98° -99° C. (cyclohexane).

reactant | water | O | H2O
reactant | 3-nitro-4-chlorophenyl-2-pyridyl methanol hydrochloride | 0.266 mol | Cl.[N+](=O)([O-])C=1C=C(C=CC1Cl)C(O)C1=NC=CC=C1
catalyst | chromium trioxide | 0.27 mol | [O-2].[O-2].[O-2].[Cr+6]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-nitro-4-chlorobenzoyl)pyridine | [N+](=O)([O-])C=1C=C(C(=O)C2=NC=CC=C2)C=CC1Cl | C12H7ClN2O3
